US09301951B2
N1-(2-((S)-2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)pyrrolidin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide
This compound was prepared according to the procedure described for the synthesis of tert-butyl 2-methyl-1-((S)-1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidin-2-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate Example 190, using 2,5,8,11,14,17,20,23-octaoxapentacosan-25-amine in place of tert-butyl 5,8,11-trioxa-2-azatetradecan-14-oate. MS (ES, m/z): 1094.47 [M+H]+.

reactant | tert-butyl 2-methyl-1-((S)-1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidin-2-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate | CN(C(=O)[C@H]1N(CCC1)CCN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)C)CCOCCOCCOCCC(=O)OC(C)(C)C | C57H75N7O9
reactant | 2,5,8,11,14,17,20,23-octaoxapentacosan-25-amine | COCCOCCOCCOCCOCCOCCOCCOCCN | C17H37NO8
product | N1-(2-((S)-2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)pyrrolidin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide | COCCOCCOCCOCCOCCOCCOCCOCCNC(=O)[C@H]1N(CCC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C | C60H83N7O12
